plaintext
* Differential Pair Circuit
VCC 5 0 DC 15V
VEE 8 0 DC -15V
Vi 0 0 DC 0V
? Missing component
Q2 6 7 4 NPN
R1 5 6 10k
RTAIL 4 8 10k
Vo 3 0 DC 0V
.model NPN NPN
